US05885990
Preparation of 6-amidino-1-carbamoylmethyl-2-naphthyl 4-methylaminoiminomethylaminobenzoate.dihydrochloride:
20 Milliliters of 20% hydrous pyridine was added to 600 mg of 4-methylaminoiminomethylaminobenzoic acid.hydrochloride, 730 mg of 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride, 646 mg of DCC and 32 mg of DMAP, followed by stirring for 2 hours under cooling with ice and then 48 hours at room temperature. The precipitate was filtered and the filtrate was concentrated under reduced pressure. To the residue was added 20 ml of DMF, and the solution was added dropwise to 300 ml of acetone, followed by stirring for 24 hours under cooling with ice. Then, the precipitate was collected by filtration to obtain a crude product. Then, the product was subjected to silica gel column chromatography using methyl ethyl ketone-water-acetic acid (80:15:5) as an eluent, and the desired fractions were collected and the solvent was distilled off under reduced pressure. To the residue were added 15 ml of methanol and 440 μl of concentrated hydrochloric acid, and the solution was added dropwise to a mixed liquid of 300 ml of acetone and 100 ml of ether, followed by stirring for 24 hours under cooling with ice. Then, the precipitate was collected by filtration to obtain 661.1 mg of the desired product.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-methylaminoiminomethylaminobenzoic acid.hydrochloride | 600 mg | Cl.CNN=CNC1=CC=C(C(=O)O)C=C1
reactant | 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride | 730 mg | Cl.C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CC(N)=O)O
reactant | DCC | 646 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 32 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methyl ethyl ketone water acetic acid | C(C)C(=O)C.O.C(C)(=O)O
product | 6-amidino-1-carbamoylmethyl-2-naphthyl 4-methylaminoiminomethylaminobenzoate.dihydrochloride | 661.1 mg | Cl.Cl.CNN=CNC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(N)=O)C=C1 | InChI=1S/C22H22N6O3.2ClH/c1-26-28-12-27-16-6-2-13(3-7-16)22(30)31-19-9-5-14-10-15(21(24)25)4-8-17(14)18(19)11-20(23)29;;/h2-10,12,26H,11H2,1H3,(H2,23,29)(H3,24,25)(H,27,28);2*1H
